US05886033
N-(4-Trifluoromethylphenyl)-2-cyano-3-hydroxyhept-2-en-6-ynecarboxamide lysine salt
30 g (0.097 mol) of N-(4-trifluoromethylphenyl)-2-cyano-3-hydroxy-hept-2-en-6-ynecarboxamide are dissolved in 1 l of water and 25 ml of ethanol together with 17.3 g (0.097 mol) of L-lysine hydrate, filtered and lyophilized. Adhering residual amounts of ethanol are removed by repeated freeze drying.

reactant | N-(4-trifluoromethylphenyl)-2-cyano-3-hydroxy-hept-2-en-6-ynecarboxamide | 0.097 mol, 30 g | FC(C1=CC=C(C=C1)NC(=O)CC(=C(CCC#C)O)C#N)(F)F | C16H13F3N2O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | L-lysine hydrate | 0.097 mol, 17.3 g | O.N[C@@H](CCCCN)C(=O)O
solvent | water | 1 l | O | H2O
product | N-(4-Trifluoromethylphenyl)-2-cyano-3-hydroxyhept-2-en-6-ynecarboxamide lysine salt | N[C@@H](CCCCN)C(=O)O.FC(C1=CC=C(C=C1)NC(=O)CC(=C(CCC#C)O)C#N)(F)F | InChI=1S/C16H13F3N2O2.C6H14N2O2/c1-2-3-4-14(22)11(10-20)9-15(23)21-13-7-5-12(6-8-13)16(17,18)19;7-4-2-1-3-5(8)6(9)10/h1,5-8,22H,3-4,9H2,(H,21,23);5H,1-4,7-8H2,(H,9,10)/t;5-/m.0/s1
